US05212178
N-(2-methyl-6-n-propyl-8alpha-ergolinyl)-methoxyacetamide
849 mg of 2-methyl6n-propyl-8alpha-ergolinylamine (3 mmol) is dissolved in 20 ml of pyridine and stirred with 2.28 ml of methoxy acetyl chloride (30 mmol) for 30 minutes at room temperature. Then it is poured onto ice, stirred for 15 minutes, make alkaline with ammonia and extracted with dichloromethane. The organic phases are dried and concentrated by evaporation. The residue is chromatographed on silica gel with ethyl acetate/methanol and crystallized from ethyl acetate. Yield 420 mg (40% of theory), [α]D =+24° (0.5% in chloroform).

reactant | 2-methyl6n-propyl-8alpha-ergolinylamine | 3 mmol, 849 mg | CC1=C2C[C@H]3N(C[C@H](C[C@@H]3C=3C=CC=C(N1)C32)N)CCC | C18H25N3
reactant | methoxy acetyl chloride | 30 mmol, 2.28 ml | COCC(=O)Cl | C3H5ClO2
reactant | ammonia | N | H3N
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | N-(2-methyl-6-n-propyl-8alpha-ergolinyl)-methoxyacetamide | CC1=C2C[C@H]3N(C[C@H](C[C@@H]3C=3C=CC=C(N1)C32)NC(COC)=O)CCC | C21H29N3O2
